US06399627B1
To a solution of 2′-tert-butylaminosulfonyl-4-amino-[1,1′]-biphenyl (60 mg, 0.197 mmol) in 4 ml anhydrous dichloromethane was added a solution of 2M trimethylaluminum in hexane (0.3 ml, 0.59 mmol). Reaction was stirred at room temperature for 20 minutes to which a solution of ethyl 2-(3-cyanophenyl)-1-cyclopentene-1-carboxylate (48 mg, 0.197 mmol) in lml anhydrous dichloromethane. Reaction was stirred at room temperature overnight. Reaction was quenched with 15 ml 1N HCl after which an additional 10 ml dichloromethane was added. Organic was washed with 2×20 ml water, dried over magnesium sulfate and concentrated to give N-[4-(2-{[(tert-butyl)amino]sulfonyl}phenyl)phenyl][2-(3-cyanophenyl)cyclopent-1-enyl]carboxamide (80 mg, 80%) as a white powder which was sufficiently pure to be used without further purification.

reactant | 2′-tert-butylaminosulfonyl-4-amino-[1,1′]-biphenyl | 0.197 mmol, 60 mg | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)N | C16H20N2O2S
reactant | trimethylaluminum | 2M | C[Al](C)C
reactant | hexane | 0.59 mmol, 0.3 ml | CCCCCC | C6H14
reactant | ethyl 2-(3-cyanophenyl)-1-cyclopentene-1-carboxylate | 0.197 mmol, 48 mg | C(#N)C=1C=C(C=CC1)C1=C(CCC1)C(=O)OCC | C15H15NO2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | N-[4-(2-{[(tert-butyl)amino]sulfonyl}phenyl)phenyl][2-(3-cyanophenyl)cyclopent-1-enyl]carboxamide | 80 mg, 80% | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)NC(=O)C1=C(CCC1)C1=CC(=CC=C1)C#N | C29H29N3O3S
